Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Codeine / Ceclor / Ciprofloxacin / Iodine-Iodine 
Containing / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
abnormal MRI
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
This is a ___ year old right handed woman with a history of right
v2-v3 zoster and post-herpetic neuralgia, AVNRT and small silent
frontal infarct who presented initially with a left occipital
headache and left neck pain and was subsequently found to have
flair hyperintensity in the left medially temporal lobe on MRI. 

The patient has been in her usual state of health until the
morning of ___ when she developed a gradual onset, left
occipital headache. This was constant through the day, not
responsive to tylenol and not positional (though later in clinic
the patient felt it may have been worse with lying down). 
Because
of persistent pain she went to the ED on ___ evening ___. 
She
was diagnosed with muscle strain and discharged on Valium 
(though
did not pick up rx). The
headache persisted, though more intermittent ranging
___. Then on ___ the patient's son noticed a slight
right facial droop. The patient's daughter came over shortly
after and did not notice it. She then went to her PCP who
documents subtle right NLF flattening and slight right pronator
drift. Because of this, the patient was sent to the ED for
evaluation for vertebral artery dissection. MRA at that time did
not show dissection (though on wet read there was concern for
left vertebral aneurysm but after review of recons this was felt
to be a tortuous vessel. The MRI did, howerever review left
medial temporal lobe hyperintensity on flair imagaing. Due to
concern for HSV encephalitis she had an LP in the ED which 
showed
only mildly elevated protein, negative HSV PCR.

Since that time her headache has nearly resolved, though she
reports continued tenderness on the left occiput and a feeling 
of
almost numbness/tingling over left ear.

The patient continues to deny photophobia, vision changes, neck
stiffness (does have tenderness of left trapezius), fevers,
malaise, weight loss, tremor, shaking, language difficulties,
memory or behavior changes. 

On neuro ROS, the pt denies loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Stroke- small left frontal infarct discovered on ___ CT 
Shingles in right V2, V3 dermatome in ___ with post-herpetic
neuralgia
hypertension
AVNRT status post ablation
remote history of breast cancer 
Fatty liver

 
Social History:
___
Family History:
Sister with AVM, 1 child with renal cell carcinoma, 1
child with thoracic outlet syndrome

 
Physical Exam:
Vitals: T 98.4 BP 123/54  HR 63  RR 16  97% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple, No nuchal rigidity
Pulmonary: CTABL
Cardiac: RRR
Extremities: no edema
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects.  Able
to read without difficulty.  Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt. was able to
register 3 objects and recall ___ at 5 minutes.  There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 2 to 1mm and brisk.  VFF to confrontation. III, IV, 
VI:
EOMI without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch.
VII: mild right NLF flattening but facial musculature symmetric
on activation.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   
R  5    ___   ___  5   5    5  5     5     5   
-Sensory: No deficits to light touch, pinprick, proprioception
throughout. No extinction to DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Romberg absent.

 
Pertinent Results:
___ 01:41PM CEREBROSPINAL FLUID (CSF)  PROTEIN-46*
___ 01:41PM CEREBROSPINAL FLUID (CSF)  WBC-0 RBC-0 POLYS-1 
___ ___ 10:30AM   GLUCOSE-92 UREA N-14 CREAT-0.8 SODIUM-142 
POTASSIUM-3.4 CHLORIDE-103 TOTAL CO2-30 ANION GAP-12
___ 10:30AM   estGFR-Using this
___ 10:30AM   CALCIUM-9.6 PHOSPHATE-3.0 MAGNESIUM-1.8
___ 10:30AM   WBC-5.8 RBC-3.66* HGB-11.2* HCT-32.5* MCV-89 
MCH-30.7 MCHC-34.5 RDW-13.8
___ 10:30AM   PLT COUNT-236
___ 10:30AM   ___ PTT-31.7 ___

MRS brain:
1. Abnormal signal in the medial right temporal lobe lesion 
without 
hyper-perfusion. Differential considerations remain low grade 
tumor, infection or limbic encephalitis. Spectroscopy was non 
specific.  
  
2. No acute infarct or hemorrhage. 

CT Torso:
1.  No evidence of malignant disease.  
  
2.  Small hypoenhancing right thyroid nodule.   
  
3.  Hepatic cyst in the dome of the liver, stable since ___. 

MRI C-SPine (prelim report)
1. No evidence of abnormal enhancement or lesions in the 
cervical spine.  
2. Multilevel degenerative changes of the cervical spine with 
moderate 
narrowing of the spinal canal at C4-C5 level with multilevel 
narrowing of the neural foramina most severe at C4-C5 and C5-C6 
as described. 

 
Brief Hospital Course:
This is a ___ year old right handed woman with a history of right
v2-v3 zoster and post-herpetic neuralgia, AVNRT and small silent
frontal infarct who presented initially with a left occipital
headache and left neck pain and was subsequently found to have
flair hyperintensity in the left medially temporal lobe on MRI
with negative HSV PCR. 

The patient was admitted for work up of this finding. She had a 
repeat lumbar puncture which was preliminarily benign (repeat 
HSV PRC and cytology pending). She had MRS ___ which showed 
abnormal signal over the right temporal lobe which was 
consistent with limbic encephalitis or low grade tumor. She had 
a CT torso which showed a small thyroid nodule and a known, 
unchanged liver lesion. She was seen by neurosurgery who would 
like a follow up MRI brain in ___ weeks and to see her in clinic 
before any further intervention. She was started on Keppra for 
seizure prophylaxis in the meantime.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH BID 
2. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
3. Omeprazole 20 mg PO DAILY 
4. Sertraline 50 mg PO DAILY 
5. Triamterene-Hydrochlorothiazide 1 CAP PO DAILY 
6. Verapamil SR 360 mg PO Q24H 
7. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
2. Omeprazole 20 mg PO DAILY 
3. Sertraline 50 mg PO DAILY 
4. Triamterene-Hydrochlorothiazide 1 CAP PO DAILY 
5. Verapamil SR 360 mg PO Q24H 
6. LeVETiracetam 750 mg PO BID 
RX *levetiracetam 750 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
7. Albuterol Inhaler 2 PUFF IH BID 
8. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Likely low grade tumor of the right medial temporal lobe

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Slight right NLF flattening. 

 
Discharge Instructions:
You came to the hospital because of an abnormal finding on your 
MRI. You had a CT or the torso which showed nothing concerning. 
You had a special MRI of the brain (MRS) which confirmed what we 
suspect, that the finding on MRI is a slow growing tumor. You 
also had another lumbar puncture which appears normal, though 
some tests on the fluid are still pending.
 
Followup Instructions:
___